US06667303B1
Step 2: 6-Bromo-1-(4,4,4-trifluorobutyl)-benzo[cd]indol-2(1H)-one
To a solutiion of 6-bromo-benzo[cd]indol-2(1H)-one (1 g, 4 mmol) in N,N-dimethyl formamide was added K2CO3 (5.53 g, 40 mmol) and the resulting mixture was stirred for 0.5 hour under nitrogen. 4,4,4-trifluorobutyl iodide (915 mg, 4 mmol ) was next injected to the solution and the mixture was heated at 60° C. for 18 hours. The reaction media was next poured into 200 ml water and extracted with trichloromethane (3×100 ml). Column chromatography using gradient ethyl acetate in hexane (10˜20%) gave the desired product (1.225 g, 85%).

reactant | 6-bromo-benzo[cd]indol-2(1H)-one | 4 mmol, 1 g | BrC=1C=2C3=C(C(NC3=CC1)=O)C=CC2 | C11H6BrNO
reactant | K2CO3 | 40 mmol, 5.53 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4,4,4-trifluorobutyl iodide | 4 mmol, 915 mg | FC(CCCI)(F)F | C4H6F3I
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | 6-Bromo-1-(4,4,4-trifluorobutyl)-benzo[cd]indol-2(1H)-one | 1.225 g, 85% | BrC=1C=2C3=C(C(N(C3=CC1)CCCC(F)(F)F)=O)C=CC2 | C15H11BrF3NO
